US07169761B2
(1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[4-(bromomethyl)-1-methoxy-2-naphthyl]-D-glucitol (0.62 g) was added to a suspension of methyl 2-(tributylstanyl)azulene-1-carboxylate (0.25 g), tris(dibenzylideneacetone)dipalladium (0) (0.05 g), 2-(dicyclohexylphosphino)biphenyl (0.05 g), potassium fluoride (0.09 g), and cesium carbonate (0.35 g) in 1,4-dioxane (20.0 ml). The mixture was stirred at 60° C. for eight hours and at 85° C. for further 14 hours. Insoluble matters were removed by filtration, the filtrate was evaporated to remove the solvent. The residue was purified by silica gel column chromatography to obtain methyl 2-[(4-methoxy-3-[(2S,3S,4R,5R,6R)-3,4,5-tris(acetyloxy)-6-[(acetyloxy) methyl]tetrahydro-2H-pyran-2-yl]-1-naphthyl)methyl]azulene-1-carboxylate (0.34 g).

reactant | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[4-(bromomethyl)-1-methoxy-2-naphthyl]-D-glucitol | 0.62 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=C(C2=CC=CC=C2C(=C1)CBr)OC | C26H29BrO10
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.05 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | potassium fluoride | 0.09 g | [F-].[K+]
reactant | cesium carbonate | 0.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 20.0 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.05 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 2-[(4-methoxy-3-[(2S,3S,4R,5R,6R)-3,4,5-tris(acetyloxy)-6-[(acetyloxy) methyl]tetrahydro-2H-pyran-2-yl]-1-naphthyl)methyl]azulene-1-carboxylate | 0.34 g | COC1=C(C=C(C2=CC=CC=C12)CC1=C(C2=CC=CC=CC2=C1)C(=O)OC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)OC(C)=O)COC(C)=O | C38H38O12
